US08440693B2
Intermediate 12.1: 2-(tert-Butyl-dimethyl-silanyloxy)-4-methyl-phenylamine
To a solution of 2-amino-5-methyl-phenol (500 mg, 4.0 mmol) and imidazole (298 mg, 4.4 mmol) in DMF (5 ml) was added TBDMSCl (660 mg, 4.4 mmol). The reaction mixture was stirred at RT for 3 h then diluted into water and extracted with AcOEt. The organic fraction was dried over Na2SO4, filtered and evaporated to dryness. The resulting residue was purified by Combi-Flash Companion™ (Isco Inc.) column chromatography (SiO2; gradient elution, heptane/TBME containing 5% of 7M NH3 in MeOH 95:5→8:2) to yield the title compound (724 mg, 3.1 mmol, 77%) as a redish oil. TLC: RF=0.94 (heptane/DCM/TBME 1:1:2 containing 5% of 7M NH3 in MeOH); HPLC: AtRet=1.80 min; API-MS: m/z 238.1 [M+H]+; 1H NMR (400 MHz, CDCl3): 0.26 (s, 6H), 1.04 (s, 9H), 2.23 (s, 3H), 3.56 (br. s., 1H), 6.56-6.67 (m, 3H).

reactant | 2-amino-5-methyl-phenol | 4.0 mmol, 500 mg | NC1=C(C=C(C=C1)C)O | C7H9NO
reactant | imidazole | 4.4 mmol, 298 mg | N1C=NC=C1 | C3H4N2
reactant | TBDMSCl | 4.4 mmol, 660 mg | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-(tert-Butyl-dimethyl-silanyloxy)-4-methyl-phenylamine | 3.1 mmol, 724 mg, 77% | C(C)(C)(C)[Si](OC1=C(C=CC(=C1)C)N)(C)C | C13H23NOSi
